US07465719B2
1-[4-(Methoxycarbonyl)phenyl]cyclohexanecarboxylic acid (E14)
The crude methyl 4-[2-oxo-2-(tetrahydro-2H-pyran-2-yl-oxy)ethyl]benzoate (E12) (1.64 g) (0.671 g, 3.45 mmol)) and 1,5-dibromopentane (1.200 g, 5.21 mmol) were dissolved in dry hexamethylphosphoric triamide (6 ml) and the mixture was cooled in an ice bath. To the cooled solution, a 60% suspension of NaH in mineral oil (0.425 g, 10.62 mmol) was added and the reaction mixture was stirred at ice bath temperature for 15 minutes and 1.5 hours at room temperature. The reaction mixture was diluted with dioxane (20 ml) and water (15 ml), and the pH of the medium was brought to pH 1 with conc. HCl (3 ml). The reaction mixture was stirred for 20 minutes and poured into ethyl acetate (100 ml). The organic layer was washed with 2N HCl (2×50 ml), brine (50 ml), and dried (Na2SO4). The solvents were evaporated and the residue was chromatographed on silicagel (50 g) with toluene-ethyl acetate-acetic acid (8:2:0.1) as eluent to give the title compound (0.621 g, 68.5% based on E11) as a white solid. 1H NMR (CDCl3, HMDSO) δ: 0.94-2.09 (8H, m); 2.25-2.65 (2H, m); 3.88 (3H, s); 7.49 (2H, d, J=8.6 Hz); 7.96 (2H, d, J=8.6 Hz); 10.07 (1H, br s).

reactant | methyl 4-[2-oxo-2-(tetrahydro-2H-pyran-2-yl-oxy)ethyl]benzoate | 3.45 mmol, 1.64 g | O=C(CC1=CC=C(C(=O)OC)C=C1)OC1OCCCC1 | C15H18O5
reactant | 1,5-dibromopentane | 5.21 mmol, 1.200 g | BrCCCCCBr | C5H10Br2
reactant | NaH | [H-].[Na+]
reactant | HCl | 3 ml | Cl | ClH
solvent | hexamethylphosphoric triamide | 6 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(Methoxycarbonyl)phenyl]cyclohexanecarboxylic acid | 0.621 g, 68.5% | COC(=O)C1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C15H18O4
